US06329382B1
Preparation of ethyl 3-cyano-8-cyclohexyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate (Compound 12):
The intended compound was obtained in 96.5% yield in the same manner as in Synthesis Example (5) using ethyl 7-chloro-6-(2-chloroethyl)-3-cyanopyrazolo[1,5-a]-pyrimidine-5-carboxylate and cyclohexylamine.

reactant | ethyl 7-chloro-6-(2-chloroethyl)-3-cyanopyrazolo[1,5-a]-pyrimidine-5-carboxylate | ClC1=C(C(=NC=2N1N=CC2C#N)C(=O)OCC)CCCl | C12H10Cl2N4O2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | ethyl 3-cyano-8-cyclohexyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate | 96.5% yield | C(#N)C=1C=NN2C1N=C(C1=C2N(CC1)C1CCCCC1)C(=O)OCC | C18H21N5O2
